US07329633B2
mancozeb;
maneb; meferimzone; mepanipyrim; mepronil; metalaxyl; metalaxyl-M; metconazole; methasulfocarb; methfuroxam; metiram; metominostrobin; metsulfovax; mildiomycin; myclobutanil; myclozolin;

reactant | maneb | C(CNC(=S)[S-])NC(=S)[S-].[Mn+2]
reactant | meferimzone | CC1=CC=CC=C1/C(=N\NC2=NC(=CC(=N2)C)C)/C | C15H18N4
reactant | mepanipyrim | CC#CC=1C=C(N=C(N1)NC=2C=CC=CC2)C | C14H13N3
reactant | mepronil | CC=1C=CC=CC1C(=O)NC2=CC=CC(=C2)OC(C)C | C17H19NO2
reactant | metalaxyl | CC1=CC=CC(=C1N(C(C)C(=O)OC)C(=O)COC)C | C15H21NO4
reactant | metalaxyl-M | CC1=C(C(=CC=C1)C)N([C@H](C)C(=O)OC)C(=O)COC | C15H21NO4
reactant | metconazole | CC1(CCC(C1(CN2C=NC=N2)O)CC=3C=CC(=CC3)Cl)C | C17H22ClN3O
reactant | methasulfocarb | CNC(=O)SC1=CC=C(C=C1)OS(=O)(=O)C | C9H11NO4S2
reactant | methfuroxam | CC1=C(OC(=C1C(=O)NC2=CC=CC=C2)C)C | C14H15NO2
reactant | metiram | C(CNC(=S)[S-])NC(=S)[S-].[Zn+2]
reactant | metominostrobin | CNC(=O)/C(=N/OC)/C=1C=CC=CC1OC=2C=CC=CC2 | C16H16N2O3
reactant | metsulfovax | CC1=C(SC(=N1)C)C(=O)NC2=CC=CC=C2 | C12H12N2OS
reactant | mildiomycin | C1=C[C@@H](O[C@H]([C@H]1NC(=O)[C@H](CO)N)C(CC(CNC(=N)N)O)(C(=O)O)O)N2C=C(C(=NC2O)N)CO | C19H32N8O9
reactant | myclobutanil | CCCCC(CN1C=NC=N1)(C#N)C=2C=CC(=CC2)Cl | C15H17ClN4
reactant | myclozolin | CC1(C(=O)N(C(=O)O1)C2=CC(=CC(=C2)Cl)Cl)COC | C12H11Cl2NO4
product | mancozeb | C(CNC(=S)[S-])NC(=S)[S-].C(CNC(=S)[S-])NC(=S)[S-].[Mn+2].[Zn+2] | InChI=1S/2C4H8N2S4.Mn.Zn/c2*7-3(8)5-1-2-6-4(9)10;;/h2*1-2H2,(H2,5,7,8)(H2,6,9,10);;/q;;2*+2/p-4
